US05714627
Into an autoclave made of SUS316 having an internal volume of 100 ml were charged phenyl benzoate 30 g (151 mmole) produced above, dimethyl carbonate 6.82 g (75.7 mmole) and gallium triisopropoxide 0.38 g (1.51 mmole). The pressure was elevated to 20 kg/cm2 with nitrogen, and the contents were then reacted for two hours at 150° C. After completing the reaction, the reaction mixture was analyzed by gas chromatography. As a result, the yield of methyl phenyl carbonate was 25%, and the yield of diphenyl carbonate was 20%. Furthermore, methyl benzoate was produced as a by-product with a yield of 45% (the yield is given in terms of phenyl benzoate).

reactant | methyl phenyl carbonate | C(OC)(OC1=CC=CC=C1)=O | C8H8O3
reactant | diphenyl carbonate | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
product | methyl benzoate | yield of 45% | C(C1=CC=CC=C1)(=O)OC | C8H8O2
